US07592456B2
2,4-Difluorobenzaldehyde (1.42 g, 10 mmol) was dissolved in tetrahydrofuran (20 mL) and cooled to 0° C. Vinyl magnesium chloride (1M in tetrahydrofuran, 12 mL, 12 mmol) was added. The reaction was stirred for 30 minutes then quenched with saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4 and evaporated. The residue was purified by flash column chromatography on silica, eluting with 10% ethyl acetate/isohexane, to give 1-(2,4-difluorophenyl)prop-2-en-1-ol (1.15 g). 1H NMR (500 MHz, CDCl3) δ 7.45-7.39 (1H, m), 6.90-6.86 (1H, m), 6.81-6.77 (1H, m), 6.07-6.00 (1H, m), 5.48 (1H, d, J=5.1 Hz), 5.35 (1H, d, J=17.1 Hz), 5.23-5.20 (1H, m), 2.06 (1H, s).

reactant | 2,4-Difluorobenzaldehyde | 10 mmol, 1.42 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | Vinyl magnesium chloride | 12 mmol, 1M, 12 mL | C(=C)[Mg]Cl
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(2,4-difluorophenyl)prop-2-en-1-ol | 1.15 g | FC1=C(C=CC(=C1)F)C(C=C)O | C9H8F2O
